* Example circuit file for simulating PEX

.OPTION DOTNODE
.HIER /

.INCLUDE "/home/bxk5113/Pyxis_SPT_HEP/ic_projects/Pyxis_SPT/digicdesign/ALU_1Bit/ALU_1Bit.cal/ALU_1Bit.pex.netlist"

.LIB /home/bxk5113/Pyxis_SPT_HEP/ic_reflibs/tech_libs/generic13/models/lib.eldo TT

* - Instantiate your parasitic netlist and add the load capacitor
** FORMAT :
* XLAYOUT [all inputs as listed by the ".subckt" line in the included netlist, in the order that they appear there] [name of the subcircuit as listed in the included netlist]
XLAYOUT CB Y A B CONTROL[1] CONTROL[0] ALU_1Bit
C1 Y 0 120f
C2 CB 0 120f


* - Analysis Setup - DC sweep
* FORMAT : .DC [name] [low] [high] [step]
*.DC VFORCE__A 0 1.2 0.01

* - Analysis Setup - Trans
* FORMAT : .TRAN [start time] [end time] [time step]
.TRAN 0 160n 0.001n

* --- Forces
* FORMAT -- PULSE : [name] [port] [reference (0 means ground)] PULSE [low] [high] [delay] [fall time] [rise time] [pulse width] [period]
*
* FORMAT -- DC    : [name] [port] [reference (0 means ground)] DC [voltage]
*

VFORCE__A A 0 PULSE (0 1.08 40n 0.1n 0.1n 40n 80n)
VFORCE__B B 0 PULSE (0 1.08 80n 0.1n 0.1n 80n 160n)
VFORCE__C1 CONTROL[1] 0 DC 1.08
VFORCE__C0 CONTROL[0] 0 DC 1.08

VFORCE__VDD VDD 0 DC 1.08
VFORCE__VSS VSS 0 DC 0

* --- Waveform Outputs
.PLOT TRAN V(A)
.PLOT TRAN V(B)
.PLOT TRAN V(CONTROL[1])
.PLOT TRAN V(CONTROL[0])
.PLOT TRAN V(Y)
.PLOT TRAN V(CB)

* --- Params
.TEMP 125

* --- Power Measurement
.measure tran static_pwr AVG power from=90ns to=150ns
.measure tran inst_pwr MAX power from=90ns to=150ns
